US08278295B2
Preparation of tert-butyl 3-(pyrimidin-2-yloxy)azetidine-1-carboxylate
Compound P23 was prepared according to the general procedure described in the preparation of P21 in Preparation 21, except that 2-chloropyrimidine was employed instead of 2-bromopyridine, to afford P23. 1H NMR (400 MHz, CDCl3) δ 1.42 (s, 9H), 4.02 (m, 2H), 4.30 (m, 2H), 5.29 (m, 1H), 6.97 (t, J=4.9 Hz, 1H), 8.50 (d, J=4.9 Hz, 2H). Compound P23 was deprotected with trifluoroacetic acid as described for t-butyl 3-hydroxyazetidine-1-carboxylate in the preparation of C19 in Example 3, before being used in the coupling step.

reactant | 2-chloropyrimidine | ClC1=NC=CC=N1 | C4H3ClN2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | t-butyl 3-hydroxyazetidine-1-carboxylate | OC1CN(C1)C(=O)OC(C)(C)C | C8H15NO3
product | tert-butyl 3-(pyrimidin-2-yloxy)azetidine-1-carboxylate | N1=C(N=CC=C1)OC1CN(C1)C(=O)OC(C)(C)C | C12H17N3O3
